US08071768B2
a. 4-Piperidin-4-yl-quinoline
A solution of 1.03 M LiHMDS/THF (11.5 mL, 11.8 mmol) was treated dropwise with a solution of piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (2.79 g, 10.9 mmol) (WO 2003064413) in THF (6 mL) over 5 min at 0° C. with stirring under argon. After stirring 30 min at 0° C., the dark yellow homogeneous solution was treated dropwise with a solution of 4-chloroquinoline (1.615 g, 9.88 mmol) in THF (5 mL) over 1-2 min at 0° C. with stirring. The ice bath was then removed and the reaction was stirred at rt overnight, then refluxed for two hours. After cooling to rt, 1 M KOH (aq) (44 mL, 44 mmol) was added and the reaction refluxed for 30 min. Dioxane (22 mL) was added to the bilayer, and the reaction was refluxed an additional 30 min. After cooling to rt, the bilayer was treated dropwise with 12 N HCl (7.4 mL, 89 mmol HCl) (Caution: exotherm) and then refluxed for 30 min under air. The light amber bilayer was allowed to cool to rt, made basic by the addition of 2.5 M NaOH (50 mL), and extracted with DCM (1×50 mL) and 4:1 DCM/MeOH (1×50 mL). The organic layers were combined, dried (Na2SO4), and concentrated to give a residue that was shown by LC/MS to contain the title compound as a minor component and the ethyl ester intermediate as the major component. The ethyl ester intermediate was stirred with KOH pellets (2.4 g, 37 mmol) in MeOH (10 mL) at 100° C. (oil bath) for 3 h, allowed to cool to rt, treated cautiously with 6 M HCl (aq) (10 mL) and water (10 mL), and stirred at 100° C. for 20 min. After cooling to rt, the homogeneous solution was brought to pH >12 with 2.5 M NaOH and extracted with 9:1 DCM/MeOH (2×50 mL). The organic layers were combined, dried (Na2SO4), and concentrated under reduced pressure. Flash chromatography (85:15 DCM/MeOH saturated with NH3) afforded the title compound as a white semisolid (702 mg, 34%). 1H-NMR (300 MHz, CDCl3) δ 8.86 (d, 1H), 8.11 (m, 2H), 7.70 (m, 1H), 7.56 (m, 1H), 7.30 (d, 1H), 3.46 (tt, 1H), 3.27 (m, 2H), 2.91 (td, 2H), 2.02-1.92 (m, 2H), 1.87 (br s, 1H), 1.85-1.69 (m, 2H). LC/MS (ESI): calcd mass 212.1, found 213.1 (MH)+.

reactant | LiHMDS THF | 11.8 mmol, 1.03 M, 11.5 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C.C1CCOC1
reactant | piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 10.9 mmol, 2.79 g | C(C)OC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C13H23NO4
reactant | 4-chloroquinoline | 9.88 mmol, 1.615 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | KOH | 44 mmol, 1 M, 44 mL | [OH-].[K+]
reactant | HCl | 89 mmol, 12 N, 7.4 mL | Cl | ClH
reactant | NaOH | 2.5 M, 50 mL | [OH-].[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | Dioxane | 22 mL | O1CCOCC1 | C4H8O2
product | 4-Piperidin-4-yl-quinoline | N1CCC(CC1)C1=CC=NC2=CC=CC=C12 | C14H16N2
